US03948973
p-(2,2-Difluorocyclopropyl)phenol was prepared from 120 g. of p-(2,2-difluorocyclopropyl)anisole and 81 g. of boron tribromide according to the procedure described above in Example 1, part (c), affording 72 g. of oil used directly in the following reaction.

reactant | p-(2,2-difluorocyclopropyl)anisole | FC1(C(C1)C1=CC=C(C=C1)OC)F | C10H10F2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | p-(2,2-Difluorocyclopropyl)phenol | FC1(C(C1)C1=CC=C(C=C1)O)F | C9H8F2O
